US07923573B2
According to a method similar to Example (17-1), using [4-chloro-3-(trifluoromethyl)phenyl]methanol (2.00 g, 5.59 mmol) as a starting material, [4-chloro-3-(trifluoromethyl)phenyl]acetonitrile was obtained. Acetic acid (6 ml) and concentrated hydrochloric acid (6 ml) were added to the obtained [4-chloro-3-(trifluoromethyl)phenyl]acetonitrile and the mixture was stirred at 100° C. for 2 hours. After the temperature of the reaction mixture was returned to room temperature, the mixture was poured into water and extracted with ethyl acetate. The organic layer was successively washed with water and a saturated aqueous NaCl solution and dried with anhydrous sodium sulfate. The solvent was removed under reduced pressure to give crude [4-chloro-3-(trifluoromethyl)phenyl]acetic acid. Methanol (12 ml) and concentrated sulfuric acid (1.0 ml) were added to the crude product obtained in the above and the mixture was stirred at 50° C. for 1 hour. The temperature of the reaction mixture was returned to room temperature and the solvent was removed under reduced pressure. After ethyl acetate was added thereto, the organic layer was successively washed with a saturated aqueous sodium hydrogencarbonate solution and a saturated aqueous NaCl solution and dried with anhydrous sodium sulfate. The residue obtained by removing the solvent under reduced pressure was purified by silica gel column chromatography (eluting solvent: n-hexane/ethyl acetate=10/1) to give methyl[4-chloro-3-(trifluoromethyl)phenyl]acetate (1.08 g, two-step total yield: 45%).

reactant | Acetic acid | 6 ml | C(C)(=O)O | C2H4O2
reactant | hydrochloric acid | 6 ml | Cl | ClH
reactant | [4-chloro-3-(trifluoromethyl)phenyl]acetonitrile | ClC1=C(C=C(C=C1)CC#N)C(F)(F)F | C9H5ClF3N
solvent | water | O | H2O
product | [4-chloro-3-(trifluoromethyl)phenyl]acetic acid | ClC1=C(C=C(C=C1)CC(=O)O)C(F)(F)F | C9H6ClF3O2
